2126-08-14 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2126-8-14**] 04:00 AM
   - Patient taken off CPAP in AM
   - Nitro drip started to maintain SBP < 130 and diuresis with [**Hospital1 **] Lasix
   - Contact[**Name (NI) **] PCP who had not touched base w/patient since prior rehab -
   offered no further input
   - Patient sundowning, agitated placed in restraints and given Haldol
   - Added hydralazine as patient maxed out on Nitro drip responded with
   SBP < 130
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2126-8-13**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-8-13**] 07:46 AM
   Furosemide (Lasix) - [**2126-8-13**] 08:00 AM
   Lorazepam (Ativan) - [**2126-8-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-14**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 83 (65 - 90) bpm
   BP: 162/81(101) {123/65(79) - 169/122(132)} mmHg
   RR: 18 (18 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    974 mL
                                                                    402 mL
   PO:
                                                                    420 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    554 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    555 mL
   Urine:
                                                                  2,440 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,466 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 457 (365 - 457) mL
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.37/44/115/26/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   417 K/uL
   10.2 g/dL
   168 mg/dL
   3.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   36 mg/dL
   97 mEq/L
   135 mEq/L
   32.7 %
   11.1 K/uL
        [image002.jpg]
                             [**2126-8-13**]  09:29 AM
                             [**2126-8-13**]  09:52 AM
                             [**2126-8-13**]  06:34 PM
   WBC
   11.1
   Hct
   32.7
   Plt
   417
   Cr
   3.1
   3.3
   TropT
   0.07
   0.07
   TCO2
   26
   Glucose
   126
   168
   Other labs: CK / CKMB / Troponin-T:34//0.07, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Ca++:9.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 PULMONARY EDEMA
   This is a 77 y.o. Female with history of resistant htn, DM II, Right
   subclavian stenosis s/p recent hospitalization for HTN complicated by
   stroke p/w SOB.
   .
   ##. Hypoxia requiring CPAP: Likely secondary to congestive heart
   failure secondary to non-adherence to diet, decrease with diuresis
   therapy as well as diastolic dysfunction.  Likely also [**12-24**]
   hypertension. Patient required BiPAP intermittently overnight.
   Currently saturating well on face tent and 4LNC
   - will stop lasix given rising creatinine. Will assess for autodiuresis
   for now and optimize medical management of diastolic CHF.
   - last ABG reassuring. Tolerating being off Bipap well.
   .
   ##. CHF: Pt will benefit from afterload reduction. Nitro gtt in
   addition to ISMN, hydralazine.
   - continue to monitor clinic exam
   - maintain strict I&Os
   - daily weights
   .
   ##. HTN: Pt has history of resistant hypertension, currently on ISMN,
   Clonidine patch, Amlodipine , Metoprolol, hydralazine, nitro gtt. Will
   have goal SBP 120-140.
   - will continue above regimen as well as managing agitation with geodon
   and haldol, also ativan as per home dose. Pressures have been
   increasing with agitation
   .
   ##. Agitation: Pt noted to be agitated on on Bipap machine. Pt at home
   received Ativan 0.5 daily.
   - continue ativan 0.5mg daily as per home dose; avoid additional ativan
   -geodon QHS
   -haldol and geodon PRN while monitoring Qtc
   .
   ##. Acute on chronic renal failure: Pt's prior baseline Creatinine
   noted to be 2.2-2.9 during last admissionm currently elevated at 3.4.
   likely due to poor forward flow.
   - hold diresis for now
   - monitor urine output given ?h.o. AIN. Urine eos's still pending.
   urine lytes pending
   - will touch base  with Dr. [**Last Name (STitle) 8048**], outpatient nephrologist
   .
   ##. FEN: No IVF, replete electrolytes.
   .
   ##. Statin: Pt noted to have rhabdomyolysis and [**Last Name (un) 2406**] with prior statins
   will not continue.
   .
   ##. Prophylaxis: Subcutaneous heparin
   .
   ##. Access: peripherals
   .
   ##. Code: Full
   .
   ##. Communication: son
   .
   ##. Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-8-13**] 06:23 AM
   20 Gauge - [**2126-8-14**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2126-08-16 06:23:00 Physician Resident Progress Note
Chief Complaint: 77 yof with h/o resistant htn, DM II, Right subclavian
   stenosis s/p recent hospitalization for HTN who presented to the [**Hospital1 1**]
   ED w/ SOB, in fluid overload state with hypertension, progressive renal
   failure (rising Cr) and continued agitation
   24 Hour Events:
   - ECG showed QTC 413 ms
   - Renal: MRA for RAS should be ordered in a NON-contrast protocol (call
   radiology - ? IR procedure)- not emergent study but would change
   management and should be ordered when patient can tolerate
   - Dialysis: brought up question of dialysis for management of fluid
   overload in future, renal will comment in next note
   - Initially doing well of cpap but then dessated to 88% and needed unit
   cpap initially at FiO2 of 100% then weaned back to facemask/nasal
   cannula combo
   - Looked through all of old hospital records (both omr and scanned
   records) and can't find any strong reason to use geodon and pharmacy is
   NOT happy about it. there is a neuro consult which says don't use
   haldol because increased risk of EPS and instead use geodon OR zyprexa.
   will switch pt to zyprexa because this is way easier to deal with.
   - Wild overnight. gave an extra dose of 2.5 zyprexa, but she wouldn't
   take it. gave 10 geodon IM instead.
   - Psych consulted yesterday but did not come by today.
   - Today's ekg shows normal qt, will check again tomorrow
   - Isosorbide increased to max dose of 120 [**Hospital1 **]
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2126-8-13**] 06:00 AM
   Infusions:
   Nitroglycerin - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-16**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 71 (58 - 80) bpm
   BP: 186/77(103) {93/34(54) - 188/81(103)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,369 mL
                                                                    172 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                    589 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,149 mL
                                                                    425 mL
   Urine:
                                                                  1,149 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 566 (350 - 566) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 4 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 11.2 L/min
   Physical Examination
   General: sedated, confused but alert, mild. resp. distress
 speaks in
   full sentences
   Heart: RRR, no MRG
   Lungs: soft bilateral crackles
   Abdomen: soft, NTND, ABS
   Extremities: NT, no CCE, WWP, DP 2+
   Labs / Radiology
   312 K/uL
   9.1 g/dL
   126 mg/dL
   4.1 mg/dL
   25 mEq/L
   3.6 mEq/L
   52 mg/dL
   96 mEq/L
   135 mEq/L
   27.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2126-8-13**]  09:29 AM
                             [**2126-8-13**]  09:52 AM
                             [**2126-8-13**]  06:34 PM
                             [**2126-8-14**]  06:52 AM
                             [**2126-8-14**]  03:21 PM
                             [**2126-8-15**]  12:22 AM
                             [**2126-8-15**]  05:12 AM
                             [**2126-8-16**]  02:22 AM
   WBC
   11.1
   13.3
   11.6
   10.2
   Hct
   32.7
   29.0
   28.3
   27.2
   Plt
   [**Telephone/Fax (3) 8435**]12
   Cr
   3.1
   3.3
   3.4
   3.6
   3.9
   4.1
   TropT
   0.07
   0.07
   TCO2
   26
   29
   Glucose
   126
   168
   144
   135
   138
   126
   Other labs: PT / PTT / INR:13.3/48.0/1.1, CK / CKMB /
   Troponin-T:34//0.07, Differential-Neuts:88.2 %, Lymph:8.0 %, Mono:2.6
   %, Eos:1.0 %, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Microbiology
   - MRSA [**8-13**]
 negative
   - blood 9/22
 pending
   Imaging
   - CXR [**8-15**]
 unchanged pleural effusions with LL collapse, pulmonary
   edema
   Assessment and Plan
   This is a 77 y.o. Female with history of resistant HTN, DM II, right
   subclavian stenosis s/p recent hospitalization for HTN complicated by
   stroke p/w SOB.
   ##. Hypoxia: continues to have desaturations requiring CPAP.  Etiology
   [**12-24**] to combination of CHF and impaired renal function resulting in
   fluid overload state.  Lasix discontinued for worsening renal function,
   now with Cr of 4.1.  Patient in continued respiratory distress.
   - consider elective endotracheal intubation for improved ventilation
   and sedation for MRA
   - continue to optimize afterload reduction for diastolic heart failure
   - consider therapeutic thoracentesis with pleurodesis for resistant
   effusions
   - consider dialysis for fluid overload state with failing renal
   function
   ##. CHF: patient pressures generally < 130/90 unless agitated, now
   managed with maxed out Isosorbide, hydralazine, ISMN, clonidine patch,
   amlodipine , metoprolol, hydralazine
   - continue supportive care
   - maintain strict I&Os
   - consider addition of lobetalol instead of metoprolol for focused
   vasculature target rather than nodal target
   - daily weights
   - low Na diet
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium
   - continue above regimen with addition of geodon and ativan for
   agitation
   - consider non-contrast MRA to r/o RAS when patient can tolerate
   procedure
   ##. Agitation: patient with continued delirium and agitation,
   exacerbating her hypertension and respiratory status
   - continue home dose of ativan
   - continue geodon IM as patient will not tolerate Zyprexia
   - will defer psychiatric and geriatric consultation pending
   endotracheal intubation
   ##. Acute on chronic renal failure: Pt's prior baseline Creatinine
   noted to be 2.2-2.9 during last admissionm currently elevated at
   4.1.likely due to substantial pre-renal component as patient may have
   IV depletion.
   - will hold diuresis for elevated Cr, do not want to push into acute
   renal failure
   - considering non-contrast MRA to r/o MRA in setting of resistant
   hypertension once sedated and intubated
   - consider hemodialysis for fluid overload state
 will follow up renal
   recs
   ##. FEN: No IVF, replete electrolytes.
   ##. Prophylaxis: Subcutaneous heparin
   ##. Access: peripherals
   ##. Code: Full
   ##. Communication: son
   ##. Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-8-14**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: presumed full
   Disposition: ICU

2126-08-17 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2126-8-16**] 09:27 AM
 ARTERIAL LINE - START [**2126-8-16**] 06:06 PM
 MULTI LUMEN - START [**2126-8-16**] 06:45 PM
   -psych recs: haldol 0.5 mg IM or IV for agitation with ECG to ensure
   not prolonging QT interval
   -patient intubated for continued unchanged respiratory status
   -left sided a-line (right subclavian stenosis) and right IJ placed
   -MRA w/out contrast to evaluate for [**Year (4 digits) **]
   -IV infiltration of right hand during intubation, echymotic with
   minimal swelling, palpable pulse, skin intact (not concerned for
   sloughing)
   -decreasing UOP with low CVP, given 250 NS bolus with no urine output,
   repeat 250 NS bolus no urine output
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-8-16**] 11:10 AM
   Propofol - [**2126-8-16**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2126-8-17**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-17**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 58 (53 - 76) bpm
   BP: 149/42(74) {99/29(52) - 166/57(88)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 51.6 kg (admission): 52.3 kg
   Height: 60 Inch
    CVP: 6 (5 - 14)mmHg
   Total In:
                                                                  1,022 mL
                                                                    551 mL
   PO:
   TF:
   IVF:
                                                                    692 mL
                                                                    551 mL
   Blood products:
   Total out:
                                                                    971 mL
                                                                    210 mL
   Urine:
                                                                    971 mL
                                                                     60 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 360) mL
   Vt (Spontaneous): 490 (490 - 490) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.35/42/146/24/-2
   Ve: 6.8 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   320 K/uL
   8.5 g/dL
   100 mg/dL
   4.4 mg/dL
   24 mEq/L
   4.9 mEq/L
   57 mg/dL
   98 mEq/L
   136 mEq/L
   26.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2126-8-15**]  12:22 AM
                             [**2126-8-15**]  05:12 AM
                             [**2126-8-16**]  02:22 AM
                             [**2126-8-16**]  02:29 PM
                             [**2126-8-16**]  06:28 PM
                             [**2126-8-16**]  10:47 PM
                             [**2126-8-16**]  11:57 PM
                             [**2126-8-17**]  12:10 AM
                             [**2126-8-17**]  02:46 AM
                             [**2126-8-17**]  04:36 AM
   WBC
   11.6
   10.2
   8.1
   Hct
   28.3
   27.2
   26.5
   Plt
   343
   312
   320
   Cr
   3.9
   4.1
   4.0
   4.4
   TCO2
   29
   26
   25
   28
   25
   24
   Glucose
   138
   126
   124
   131
   121
   100
   Other labs: PT / PTT / INR:13.2/34.4/1.1, CK / CKMB /
   Troponin-T:34//0.07, Differential-Neuts:88.2 %, Lymph:8.0 %, Mono:2.6
   %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.1 mg/dL
   Imaging: As compared to the previous examination, the patient has been
   intubated. The tip of the endotracheal tube projects 4 cm above the
   carina.
   There is no evidence of complications. Otherwise, the radiograph is
   unchanged. Bilateral parenchymal opacities, marked cardiomegaly,
   retrocardiac
   atelectasis and moderate right pleural effusion.
   Microbiology: [**2126-8-16**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2126-8-13**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2126-8-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2126-8-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 OLIGURIA/ANURIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EDEMA
   This is a 77 y.o. Female with history of resistant HTN, DM II, right
   subclavian stenosis s/p recent hospitalization for HTN complicated by
   stroke p/w SOB.
   ##. Hypoxic Respiratory failure: s/p intubation yesterday for sedation
   for MRA and for tiring on CPAP.  Hypoxic Etiology [**12-24**] to combination of
   CHF and impaired renal function resulting in fluid overload state.
   Lasix discontinued for worsening renal function, now with Cr of 4.4.
   Patient in continued respiratory distress.
   - continue to optimize rate control/afterload reduction for diastolic
   heart failure
   - consider therapeutic thoracentesis with pleurodesis for resistant
   effusions
   - consider dialysis for fluid overload state with failing renal
   function
   ##. CHF: patient off nitro drip now that sedated, now managed with
   clonidine patch, amlodipine , metoprolol ; off Isosorbide, hydralazine
   - rate control/afterload reduction
   - continue supportive care
   - maintain strict I&Os
   - attempt to keep SBPs in 150
s to 160
s, currently somewhat
   bradycardic so will back off on TID metoprolol.   Will give 5mg IV
   metoprolol Q6H. Nitro gtt as needed for goals.
   - daily weights
   - low Na diet
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; better now that sedated
   -rate control and afterload reduction-- clonidine patch, amlodipine ,
   metoprolol 5mg IV Q6 ; off Isosorbide, hydralazine; nitro drip PRN
   - wet read of MRA shows no [**Last Name (LF) **], [**First Name3 (LF) 116**] discuss w/ renal CVVH vs.
   ##. Agitation: off meds now, as sedated
   - will defer psychiatric and geriatric consultation until extubated
   ##. Acute on chronic renal failure: Now anuric. Pt's prior baseline
   Creatinine noted to be 2.2-2.9 during last admissionm currently
   elevated at 4.4.l ikely due to substantial pre-renal component as
   patient may have IVF depletion, in addition to administration of lasix.
   -mangement as above
   -per wet read of MRA, no [**First Name3 (LF) **]
   - consider hemodialysis for fluid overload state and b/c now anuric vs.
   aggressive diuresis
 will follow up renal recs
   ## Bradycardia: DDx excessive betablockade with meds vs. sedation vs.
   increased ICP (note patient has HTN and old strokes)
   -CT head without contrast to evaluate for ICH
   -off fentanyl drip and will just give boluses for now
   -stop metoprolol 100mg TID, switch to short acting beta blockade
   ##. FEN: No IVF, replete electrolytes.
   ##. Prophylaxis: Subcutaneous heparin, PPI
   ##. Access: Aline, IJ
   ##. Code: Full
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**])
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-8-14**] 04:00 AM
   Arterial Line - [**2126-8-16**] 06:06 PM
   Multi Lumen - [**2126-8-16**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2126-08-18 08:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2126-8-17**] 10:00 AM
   Renal artery MRA
 EKG - At [**2126-8-17**] 07:50 PM
   -oliguric this AM
   -bradycardic this AM to as low as the 30's intermittently, but more
   consistently in the 50's. Had been getting 100mg metoprolol TID
   -Briefly stopped metoprolol PO TID and switched to lopressor 5mg Q6 PRN
   b/c wanted something short-acting; kept on clonidine and amlodipine.
   also put on nitro gtt PRN, but with new goal of BP's in 150's to 160's
   systolic to help improve urine output/renal perfusion
   -MRA done--> wet read shows no RAS; plan= aggressive diuresis vs. CVVH
   -got noncontrast CT head to evaluate for ICH b/c HTN+bradycardic
   -changed fentanyl drip to boluses for HR
   -renal recs: 120mg IV lasix--> put out very well
   -woke up intermittently with high BP's, bolused as needed
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-8-17**] 04:00 PM
   Hydralazine - [**2126-8-18**] 06:20 AM
   Lorazepam (Ativan) - [**2126-8-18**] 07:30 AM
   Midazolam (Versed) - [**2126-8-18**] 07:51 AM
   Fentanyl - [**2126-8-18**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-18**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 61 (52 - 93) bpm
   BP: 166/46(85) {128/37(62) - 272/103(172)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.6 kg (admission): 52.3 kg
   Height: 60 Inch
    CVP: 8 (3 - 15)mmHg
   Total In:
                                                                    897 mL
                                                                     50 mL
   PO:
   TF:
   IVF:
                                                                    717 mL
   Blood products:
   Total out:
                                                                    683 mL
                                                                    620 mL
   Urine:
                                                                    533 mL
                                                                    520 mL
   NG:
                                                                    150 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    214 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.37/46/146/25/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 365
   Physical Examination
   gen: intubated
   cv: RRR
   resp: cta anteriorly
   abd: soft
   ext: no edema
   Labs / Radiology
   263 K/uL
   8.3 g/dL
   93 mg/dL
   4.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   65 mg/dL
   100 mEq/L
   138 mEq/L
   25.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2126-8-16**]  06:28 PM
                             [**2126-8-16**]  10:47 PM
                             [**2126-8-16**]  11:57 PM
                             [**2126-8-17**]  12:10 AM
                             [**2126-8-17**]  02:46 AM
                             [**2126-8-17**]  04:36 AM
                             [**2126-8-17**]  12:00 PM
                             [**2126-8-17**]  12:08 PM
                             [**2126-8-18**]  04:15 AM
                             [**2126-8-18**]  04:28 AM
   WBC
   8.1
   7.4
   Hct
   26.5
   25.2
   Plt
   320
   263
   Cr
   4.4
   4.7
   4.8
   TCO2
   26
   25
   28
   25
   24
   27
   28
   Glucose
   124
   131
   121
   100
   96
   99
   93
   Other labs: PT / PTT / INR:13.2/34.4/1.1, CK / CKMB /
   Troponin-T:34//0.07, Differential-Neuts:88.2 %, Lymph:8.0 %, Mono:2.6
   %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.7 mg/dL
   Imaging: CT head: no bleed
   renal mri: No evidence of significant renal artery stenosis
   bilaterally.
   Multiple renal cysts; two lesions in the left kidney may represent
   hemorrhagic
   cysts but are not definitively characterized. Followup study is
   recommended
   to assess for any size change.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EDEMA
   This is a 77 y.o. Female with history of resistant HTN, DM II, right
   subclavian stenosis s/p recent hospitalization for HTN complicated by
   stroke p/w SOB.
   ##. Hypoxic Respiratory failure: s/p intubation yesterday for sedation
   for MRA and for tiring on CPAP.  Hypoxic etiology [**12-24**] to combination of
   CHF and impaired renal function resulting in fluid overload state
   - continue to optimize rate control/afterload reduction for diastolic
   heart failure
   -try psv today, plan for extubation tomorrow
   - could also consider therapeutic thoracentesis with pleurodesis for
   resistant effusions
   - consider dialysis for fluid overload state with falling renal
   function
   ##. CHF: patient off nitro drip now that sedated, now managed with
   clonidine patch, amlodipine , metoprolol; off isosorbide, hydralazine
   - rate control/afterload reduction
   - continue supportive care
   - maintain strict I&Os
   - attempt to keep SBPs in 150
s to 160
s, brady yesterday. metoprolol
   dc'ed. if need to restart bblocker for bp control, could try labetolol
   or carvedilol rather than lopressor so get more bp control for the drop
   in HR.
   - daily weights
   - low Na diet
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; better now that sedated
   -rate control and afterload reduction-- clonidine patch, amlodipine ,
   off isosorbide, hydralazine; nitro drip
   ##. Agitation: off meds now, as sedated
   - will defer psychiatric and geriatric consultation until extubated
   -off fentanyl drip and midaz drip. Very agitated though. will continue
   fent and midaz boluses but change to q2h.
   ##. Acute on chronic renal failure: Now anuric. Pt's prior baseline
   Creatinine noted to be 2.2-2.9 during last admission currently elevated
   at 4.8.
   -per wet read of MRA, no RAS
   -may be slowly heading towards HD
   -gave lasix yesterday c good effect per renal, however, Cr did continue
   to rise
   -greatly appreciate renal recs
   -pt seems to be autodiuresing this am, will hold off on more lasix but
   plan for TBB of -1Liter, use lasix boluses prn (120IV)
   .
   ## Bradycardia: DDx excessive beta blockade with meds vs. sedation vs.
   increased ICP (note patient has HTN and old strokes)
   -CT head without contrast to evaluate for ICH reassuring
   -off fentanyl drip and midaz drip. Very agitated though. will restart
   fent drip and use midaz in boluses
   -will restart bblocker as no bradycardia since yesterday morning
   ##. FEN: No IVF, replete electrolytes, OGT + tube feeds versus extubate
    ##. Prophylaxis: Subcutaneous heparin, PPI
   ##. Access: Aline, IJ
    ##. Code: Full
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**])
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   Multi Lumen - [**2126-8-16**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-19 06:36:00 Physician Resident Progress Note
Chief Complaint: 77 yof with h/o resistant HTN, DM-II, right subclavian
   stenosis, and CKD  admitted with acute onset dyspnea, noted to be in
   fluid overload state in setting of CKD and worsening renal function.
   Patient was intubated for respiratory support in setting of frequent
   desats with CPAP.
   24 Hour Events:
   - autodiuresis of 1.5L without lasix in setting of stable Cr of 4.7
   from baseline in high 2
s low 3
   - standing haldol 0.5 mg [**Hospital1 **] started for agitation in attempt to wean
   from fentanyl and midazolam
 PRN doses recommended by psychiatry with
   ECG monitoring for QT interval
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-8-18**] 07:30 AM
   Fentanyl - [**2126-8-19**] 05:19 AM
   Midazolam (Versed) - [**2126-8-19**] 05:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-19**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 75 (57 - 98) bpm
   BP: 167/48(89) {123/36(69) - 223/74(133)} mmHg
   RR: 11 (10 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.6 kg (admission): 52.3 kg
   Height: 60 Inch
    CVP: 8 (4 - 12)mmHg
   Total In:
                                                                    190 mL
                                                                     60 mL
   PO:
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,396 mL
                                                                    372 mL
   Urine:
                                                                  1,296 mL
                                                                    272 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,206 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 361 (325 - 570) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.34/53/112/26/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   7.8 g/dL
   107 mg/dL
   4.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   68 mg/dL
   93 mEq/L
   139 mEq/L
   23.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2126-8-17**]  02:46 AM
                             [**2126-8-17**]  04:36 AM
                             [**2126-8-17**]  12:00 PM
                             [**2126-8-17**]  12:08 PM
                             [**2126-8-18**]  04:15 AM
                             [**2126-8-18**]  04:28 AM
                             [**2126-8-18**]  07:20 PM
                             [**2126-8-18**]  07:25 PM
                             [**2126-8-19**]  01:54 AM
                             [**2126-8-19**]  02:03 AM
   WBC
   7.4
   7.3
   Hct
   25.2
   23.8
   Plt
   263
   267
   Cr
   4.7
   4.8
   4.7
   4.7
   TCO2
   25
   24
   27
   28
   29
   30
   Glucose
   100
   96
   99
   93
   102
   107
   Other labs: PT / PTT / INR:13.2/34.4/1.1, CK / CKMB /
   Troponin-T:34//0.07, Differential-Neuts:88.2 %, Lymph:8.0 %, Mono:2.6
   %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:6.7 mg/dL
   Microbiology
   - blood 9/22: pending
   - MRSA [**8-13**]: negative
   - sputum [**8-16**]: negative
   Imaging
   - CT head [**8-17**]: negative for ICH
   - IFIR renal [**8-17**]: no RAS
   - CXR 9/38:
   Assessment and Plan
   This is a 77 yof with h/o resistant HTN, DM-II, right subclavian
   stenosis and CKD s/p recent hospitalization for HTN complicated by CVA
   p/w SOB in setting of fluid overload and worsening renal function
   ##. Hypoxic Respiratory failure: patient currently intubated for
   marginal respiratory status on CPAP and for MRA to r/o RAS
 negative.
   - continue to optimize rate control/afterload reduction for diastolic
   heart failure
   -try psv today, plan for extubation tomorrow
   - could also consider therapeutic thoracentesis with pleurodesis for
   resistant effusions
   - consider dialysis for fluid overload state with falling renal
   function
   ##. CHF: patient off nitro drip now that sedated, now managed with
   clonidine patch, amlodipine , metoprolol; off isosorbide, hydralazine
   - rate control/afterload reduction
   - continue supportive care
   - maintain strict I&Os
   - attempt to keep SBPs in 150
s to 160
s, brady yesterday. metoprolol
   dc'ed. if need to restart bblocker for bp control, could try labetolol
   or carvedilol rather than lopressor so get more bp control for the drop
   in HR.
   - daily weights
   - low Na diet
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; better now that sedated
   -rate control and afterload reduction-- clonidine patch, amlodipine ,
   off isosorbide, hydralazine; nitro drip
   ##. Agitation: off meds now, as sedated
   - will defer psychiatric and geriatric consultation until extubated
   -off fentanyl drip and midaz drip. Very agitated though. will continue
   fent and midaz boluses but change to q2h.
   ##. Acute on chronic renal failure: Now anuric. Pt's prior baseline
   Creatinine noted to be 2.2-2.9 during last admission currently elevated
   at 4.8.
   -per wet read of MRA, no RAS
   -may be slowly heading towards HD
   -gave lasix yesterday c good effect per renal, however, Cr did continue
   to rise
   -greatly appreciate renal recs
   -pt seems to be autodiuresing this am, will hold off on more lasix but
   plan for TBB of -1Liter, use lasix boluses prn (120IV)
   .
   ## Bradycardia: DDx excessive beta blockade with meds vs. sedation vs.
   increased ICP (note patient has HTN and old strokes)
   -CT head without contrast to evaluate for ICH reassuring
   -off fentanyl drip and midaz drip. Very agitated though. will restart
   fent drip and use midaz in boluses
   -will restart bblocker as no bradycardia since yesterday morning
   ##. FEN: No IVF, replete electrolytes, OGT + tube feeds versus extubate
    ##. Prophylaxis: Subcutaneous heparin, PPI
   ##. Access: Aline, IJ
    ##. Code: Full
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**])
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   Multi Lumen - [**2126-8-16**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-20 06:51:00 Physician Resident Progress Note
Chief Complaint: 77 yof w/ h/o resistant Htn, DMII, right subclavian
   stenosis, and CKD, admited with acute onset dyspnea, noted to be in
   fluid overload in setting of acute on chronic renal failure.  Pt was
   intubated for respiratory support in setting of frequent desats with
   CPAP.
   24 Hour Events:
 EKG - At [**2126-8-19**] 08:24 AM -
 NON-INVASIVE VENTILATION - STOP [**2126-8-19**] 03:30 PM
 SPUTUM CULTURE - At [**2126-8-19**] 04:13 PM
   -patient extubated with s/p ABG - 7.34 / 53 / 122 / 30
   -renal recs: start phosphate binder when no longer NPO, start aldactone
   25 mg if K remains lower end of normal, Dr. [**Last Name (STitle) 8048**] to return tomorrow
   for HD discussion
   -PRN hydralazine restarted for BP > 180
   -patient ripped out NGT but pleasant and agreeing to take PO meds
   - also pulled out RIJ due to irritation, only access is 20G PIV
   - she has been receiving fentanyl q2-4 hrs for agitation
   - she has received only one dose of hydralazine for htn
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2126-8-19**] 08:11 AM
   Midazolam (Versed) - [**2126-8-19**] 01:15 PM
   Haloperidol (Haldol) - [**2126-8-19**] 03:40 PM
   Heparin Sodium (Prophylaxis) - [**2126-8-20**] 12:00 AM
   Fentanyl - [**2126-8-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-20**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36
C (96.8
   HR: 73 (63 - 88) bpm
   BP: 148/60(99) {140/36(70) - 184/60(100)} mmHg
   RR: 18 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.6 kg (admission): 52.3 kg
   Height: 60 Inch
    CVP: 7 (1 - 8)mmHg
   Total In:
                                                                    270 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,222 mL
                                                                    289 mL
   Urine:
                                                                  1,122 mL
                                                                    289 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -952 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 5 cmH2O
   SpO2: 97%
   ABG: 7.34/53/122/26/1
   Ve: 5.2 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Cardiovascular: General: NAD
   Lungs: CTAB, no w/r/r
   Heart; RRR, left parasternal systolic murmur, JVD 10cm
   Abdomen: soft, ND,NT, ABS
   Ext: WWP, DP 2+, trace edema
   Labs / Radiology
   296 K/uL
   8.2 g/dL
   107 mg/dL
   4.2 mg/dL
   26 mEq/L
   4.0 mEq/L
   64 mg/dL
   100 mEq/L
   139 mEq/L
   24.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2126-8-17**]  12:08 PM
                             [**2126-8-18**]  04:15 AM
                             [**2126-8-18**]  04:28 AM
                             [**2126-8-18**]  07:20 PM
                             [**2126-8-18**]  07:25 PM
                             [**2126-8-19**]  01:54 AM
                             [**2126-8-19**]  02:03 AM
                             [**2126-8-19**]  04:04 PM
                             [**2126-8-19**]  09:19 PM
                             [**2126-8-20**]  02:45 AM
   WBC
   7.4
   7.3
   7.8
   Hct
   25.2
   23.8
   26.5
   24.3
   Plt
   263
   267
   296
   Cr
   4.8
   4.7
   4.7
   4.2
   TCO2
   27
   28
   29
   30
   30
   Glucose
   99
   93
   102
   107
   107
   Other labs: PT / PTT / INR:14.3/34.5/1.2, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, LDH:180
   IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EDEMA
   This is a 77 yof with h/o resistant HTN, DM-II, right subclavian
   stenosis and CKD s/p recent hospitalization for HTN complicated by CVA
   p/w SOB in setting of fluid overload and worsening renal function
   ##. Hypoxic Respiratory failure:  Believed to be secondary to pulmonary
   edema [**12-24**] to chronic heart failure, exacerbated by high afterload and
   worsening renal function.    Respiratory status improved with increased
   afterload reduction which improved diuresis.  She was extubated
   yesterday.   Respiratory status stable on face mask and nasal cannula.
   CXR shows pulm edema.
   Holding diuresis given renal failure.
   - repeat CXR
   - optimize cardiac output and renal perfusion
   - cardiology consulted
   .
   ##. CHF:  on Labetolol, Amlodippine, clonidine, hydralazine.  NG drip
   off.   Improving end organ perfusion shows some improvement as
   evidenced by improvement in renal function.    She has history of MR,
   which is evident on exam and prior ECHO (although most recent ECHO does
   not support this), and may be a contributing factor to her worsening
   pulmonary edema.
   - Pt has isolated systolic hypertension, which is improving, but
   medically optimizing hypertension and cardiac output could benefit her
   renal function and prolong hemodialysis
   - maintain strict I/O
s to ensure patient remains negative, daily
   weights and low Na diet
   ## Anemia: HCT continues to [**2125**]6.5
 25.2
 23.8 in the setting of
   falling all cell lines (WBC
s and platelets). Today Hct is 24.3,
   stable.
   - NG aspirate guaic negative
   - no BM
 guaic stool, bowel regimen to facilitate this test.
   - continue to trend with q hr HCT
   - consider PRBC transfusion for falling HCT this evening
   - IV PPI for possible GIB
   - consult GI if guiac +
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - afterload reduction as documented above
   ##. Agitation:
   - geriatric and psychiatric consultation
   - continue Haldol 0.5 po standing,  with ECG monitoring for QT
   prolongation
   - d/c fentanyl, should be used for agitation.
   - may  need to uptitrate haldol with discontinuation of fentanyl
   ##. Acute on chronic renal failure:. Pt's prior baseline Creatinine
   noted to be 2.2-2.9 during last admission currently elevated.
   Creatinine fell from 4.7 to 4.2 today.  She is autodiuresing with UOP
   of 1200cc.   Anticipate renal function should continue to improve with
   improved renal perfusion.   MRA performed confirming no RAS.
   - patient continues to auto-diurese in setting of  improving
   - hold Lasix for now
   - consider long term HD for ultimate fluid control
   .
   ##. FEN: No IVF, replete electrolytes,   OGT pulled out., pt agrees to
   take PO
    ##. Prophylaxis: Subcutaneous heparin, PPI
   ##. Access: Aline, IJ (self removed today), PICC placement today
     ##. Code: Full
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**])
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   Multi Lumen - [**2126-8-16**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-21 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -renal stopped by:  said HD not the best idea for now; instead better
   to manage her BP and volume status; okay with increasing labetalol and
   w/ continued clonidine patch
   -cardiology recs:  treat BP with imdur 60 [**Hospital1 **], hydral 10 mg q6 hrs, can
   continue amlodipine, and can uptitrate labetolol to get HR 50s-60s.
   Will also probably benefit from lasix long term.  Suggest trying to
   wean off clonidine
   -Around 1800, got 10 mg IV hydral for BP > 180; went into afib
   following this, with HRs in 130s-150s; pt reported palpitations but
   otherwise asymptomatic.  K+ low at 3.4.  Blood gas okay. Got one-time
   dose of lopressor; labetolol was uptitrated to 100 mg [**Hospital1 **] --> TID.
   Returned to sinus rhythm within ~1 hr of flipping into afib with HRs
   back in the 80s. Throughout night had multiple reversions to afib with
   HRs in 130s-140s: esmolol drip started with bolus of 250 mcg/kg then
   running at 150 mcg/kg/min given persistence of tachycardia; HRs
   improved to 60s-70s, BP in the 150s, satting in mid 80s.  ABG at 5 AM
   showed pO2: 55  pCO2: 41 pH:7.38 HCO3 25.
   -Cards notified about new onset afib; consider anticoagulation. They
   suggest searching for other sources of hypertension (pheo, thyroid).
   -renal stopped by:  said HD not the best idea for now; instead better
   to manage her BP and volume status; okay with increasing labetalol and
   w/ continued clonidine patch
   -cardiology recs:  treat BP with imdur 60 [**Hospital1 **], hydral 10 mg q6 hrs, can
   continue amlodipine, and can uptitrate labetolol to get HR 50s-60s.
   Will also probably benefit from lasix long term.  Suggest trying to
   wean off clonidine
   -Put on high flow aerosol mask at 50% FiO2
   -120 mg IV lasix given X 2: net balance -800 mL prior to second dose
   -getting standing PO haldol for agitation [**Hospital1 **]; got another one at
   night, re-ordering EKG for tomorrow AM
   -going for PICC line on Wednesday
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Esmolol - 50 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2126-8-20**] 10:49 AM
   Hydralazine - [**2126-8-20**] 05:50 PM
   Furosemide (Lasix) - [**2126-8-20**] 10:18 PM
   Heparin Sodium (Prophylaxis) - [**2126-8-21**] 12:18 AM
   Haloperidol (Haldol) - [**2126-8-21**] 12:18 AM
   Metoprolol - [**2126-8-21**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-21**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 74 (70 - 131) bpm
   BP: 136/44(78) {108/38(71) - 183/76(114)} mmHg
   RR: 36 (17 - 36) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.6 kg (admission): 52.3 kg
   Height: 60 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                    480 mL
                                                                     86 mL
   PO:
                                                                    480 mL
                                                                     60 mL
   TF:
   IVF:
                                                                     26 mL
   Blood products:
   Total out:
                                                                    812 mL
                                                                    425 mL
   Urine:
                                                                    812 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -332 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 89%
   ABG: 7.38/41/55/22/0
   PaO2 / FiO2: 55
   Physical Examination
   Neuro:  Alert, oriented X 3, agitated
   Card:  tachycardic, irregular rhythm
   Lungs: bilateral crackles on anterior lung fields
   Abd:  nontender
   Ext:  warm, 1+ pulses distally, no lower extremity edema
   Labs / Radiology
   335 K/uL
   8.7 g/dL
   167 mg/dL
   4.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   69 mg/dL
   96 mEq/L
   134 mEq/L
   26.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2126-8-19**]  09:19 PM
                             [**2126-8-20**]  02:45 AM
                             [**2126-8-20**]  02:18 PM
                             [**2126-8-20**]  02:38 PM
                             [**2126-8-20**]  04:25 PM
                             [**2126-8-20**]  06:15 PM
                             [**2126-8-21**]  01:09 AM
                             [**2126-8-21**]  01:13 AM
                             [**2126-8-21**]  05:00 AM
                             [**2126-8-21**]  05:05 AM
   WBC
   7.8
   7.1
   8.1
   Hct
   26.5
   24.3
   26.7
   26.5
   Plt
   296
   312
   335
   Cr
   4.2
   4.1
   3.9
   4.0
   TCO2
   26
   24
   24
   24
   25
   Glucose
   107
   153
   155
   124
   184
   178
   161
   167
   Other labs: PT / PTT / INR:14.8/31.3/1.3, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, LDH:180
   IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   This is a 77 yof with h/o resistant HTN, DM-II, right subclavian
   stenosis and CKD s/p recent hospitalization for HTN complicated by CVA
   p/w SOB in setting of fluid overload and worsening renal function
   ##.  Atrial fibrillation - New onset, paroxysmal atrial fibrillation.
   Unclear etiology.  Electrolytes have been within normal limits; could
   be triggered by worsening afterload/hypertension, worsening of CHF,
   hypoxia, worsening of valvular dysfunction (has history of MR, although
   most recent echo does not support this).  Currently on labetalol 100
   TID and on esmolol drip running at 150 mcg/hr with HRs back in sinus
   and BPs in the 150s systolic.
   -Obtain 2D echo to evaluate for worsening of systolic function; per
   echo in early [**2126-7-23**], had mild LVH, normal systolic function, no
   valvular disease
   -Optimize BP control with labetalol + can add Imdur 60 mg [**Hospital1 **] per cards
   recs
   -Rate control with labetalol and esmolol
   -Per CHADS2: she scores 4:  should be started on coumadin.  INR is
   currently 1.3.    Currently in sinus but if reverts back to atrial
   fibrillation, consider starting anticoagulation.
   .
   ##. Hypoxic Respiratory failure:  Believed to be secondary to pulmonary
   edema [**12-24**] to chronic heart failure, exacerbated by high afterload and
   worsening renal function.  CXR shows florid pulm edema. Received lasix
   120 mg IV X 1 yesterday with diuresis of ~.8 L.   Creatinine improved
   from 4.1 to 3.9.   Got another 120 mg IV X 1 this morning, repeat
   creatinine stable at 4.0.
   - not diuresing much with lasix boluses; consider adding metolazone to
   lasix;  slight improvement in renal function suggests that there might
   be room for further diuresis
   - repeat CXR this AM
   .
   ##. CHF:  on Labetolol, Amlodipine, clonidine. Improving end organ
   perfusion shows some improvement as evidenced by improvement in renal
   function.    She has history of MR, which is evident on exam and prior
   ECHO (although most recent ECHO does not support this), and may be a
   contributing factor to her worsening pulmonary edema.
   - Given that could be secondary to MR, need to continue afterload
   reduction.  On amlodipine, hydral only being given if SBP > 180, also
   on labetalol and esmolol drip.   Further diuresis with lasix +
   metolazone may prove useful.  Can put on standing hydralazine.  Should
   repeat echo to evaluate mitral valve function.
   - maintain strict I/O
s to ensure patient remains negative, daily
   weights and low Na diet
   .
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - afterload reduction as documented above.
   .
   ## Anemia: HCTs are stable.
   .
   ##. Agitation:
   - Psych suggested using Haldol for agitation and avoiding benzos. Has
   wrist restraints.  EKG being repeated this AM to look for QT
   prolongation.
   ##. Acute on chronic renal failure:. Pt's prior baseline Creatinine
   noted to be 2.2-2.9 during last admission currently elevated.  Etiology
   could be secondary to ATN from prolonged renal ischemia.  Creatinine
   has improved overall from 4.7 to about 4.0 with continued diuresis.
   [**Month (only) 11**] be room for further improvement with continued diuresis.   MRA
   performed confirming no RAS.
   - FEurea ~ 30% (equivocal) and UNa 69 more suggestive of ATN picture.
   Need to optimize renal perfusion with afterload reduction as above and
   renally dose meds. Consider further diuresis for improvement of forward
   flow
   .
   ##. FEN: No IVF, replete electrolytes, patient taking PO.
    ##. Prophylaxis: Subcutaneous heparin, PPI
   ##. Access: Aline, peripherals, scheduled for PICC placement today
     ##. Code: Full
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**])
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   20 Gauge - [**2126-8-20**] 04:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-22 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2126-8-21**] 08:18 AM
   Left basilic
 EKG - At [**2126-8-21**] 09:45 AM
 TRANSTHORACIC ECHO - At [**2126-8-21**] 01:21 PM
 NON-INVASIVE VENTILATION - START [**2126-8-21**] 03:01 PM
 NON-INVASIVE VENTILATION - STOP [**2126-8-21**] 07:00 PM
 NON-INVASIVE VENTILATION - START [**2126-8-22**] 01:00 AM
 NON-INVASIVE VENTILATION - STOP [**2126-8-22**] 05:39 AM
   -PICC line placed
   - No imput from cardiology today.
   -Renal consult: Recommend IV Diuril 500 followed by IV Lasix --> 1400cc
   negative since yesterday MN.
   - called son and notified him of worsening respiratory status, had
   meeting with him discussing prognosis. He is HCP, form in chart. OK to
   intubate, reassess in a few days.
   - ECHO showed mild symmetric left ventricular hypertrophy with normal
   cavity size and regional/global systolic function (LVEF>55%, with
   elevated wedge pressure (>18mmHg). Moderate (2+) mitral regurgitation,
   and moderate PA systolic hypertension. The end-diastolic pulmonic
   regurgitation velocity is increased suggesting pulmonary artery
   diastolic hypertension.
   - Imdur was started to reduce preload, at 30mg [**Hospital1 **], clonidine reduced
   but is qTuesday med.
   - CPAP was started at 3pm, stopped at 7pm, and restarted at 1am due to
   worsening O2 sats.  With improving ABG she was restarted on face mask
   at 6am.
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Esmolol - 25 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2126-8-21**] 10:57 PM
   Heparin Sodium (Prophylaxis) - [**2126-8-21**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-22**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 79 (66 - 121) bpm
   BP: 178/53(99) {117/39(69) - 178/63(99)} mmHg
   RR: 27 (18 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.3 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,143 mL
                                                                     72 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                    873 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    780 mL
   Urine:
                                                                  1,900 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -757 mL
                                                                   -708 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 513 (340 - 513) mL
   PS : 12 cmH2O
   RR (Spontaneous): 40
   PEEP: 7 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.38/39/113/23/-1
   Ve: 15.2 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Cardiovascular: Gen: NAD, wearing face mask comfortably
   Heart: RRR, 2/6 systolic murmur at apex
   Lungs: rales to mid lung fields bilaterally, reduced BS on Right
   Abd: soft, ND/NT, ABS
   Ext: wwp, no c/c/e, 2+ DP pulses.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   8.4 g/dL
   119 mg/dL
   3.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   70 mg/dL
   98 mEq/L
   136 mEq/L
   26.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2126-8-21**]  09:01 AM
                             [**2126-8-21**]  11:29 AM
                             [**2126-8-21**]  11:38 AM
                             [**2126-8-21**]  04:07 PM
                             [**2126-8-21**]  05:41 PM
                             [**2126-8-21**]  07:54 PM
                             [**2126-8-21**]  11:37 PM
                             [**2126-8-22**]  01:14 AM
                             [**2126-8-22**]  01:33 AM
                             [**2126-8-22**]  04:57 AM
   WBC
   9.3
   Hct
   26.0
   Plt
   382
   Cr
   4.0
   4.0
   3.9
   TCO2
   22
   26
   24
   23
   23
   23
   24
   Glucose
   139
   132
   125
   127
   119
   Other labs: PT / PTT / INR:15.2/39.7/1.3, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, LDH:180
   IU/L, Ca++:10.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   Imaging: CXR- large pleural effusion on right, cephalizaiton consistent
   with pulmonary edema, significantly improved from yesterday's CXR
   Microbiology: none
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EDEMA
   This is a 77 yof with h/o resistant HTN, DM-II, right subclavian
   stenosis and CKD s/p recent hospitalization for HTN complicated by CVA
   p/w SOB in setting of fluid overload and worsening renal function
   ##. Hypoxic Respiratory failure:  Believed to be secondary to pulmonary
   edema [**12-24**] to chronic mitral regurg (perhaps with dynamic component)
   exacerbated by high afterload and worsening renal function.
   Unfortunately, mitral regurg has limited treatment outside of
   repair/replacement.   CXR shows improving pulmonary edema. Received
   500mg diuril IV followed by lasix 120 mg IV.  Diuresis of 1400cc over
   36 hrs.     Creatinine improving from ed from 4.0  to 3.9.   Got
   another 120 mg IV X 1 this morning, repeat creatinine stable at 4.0.
   - optimize volume status with aggressive diuresis - continue  lasix
   boluses in addition to metolazone
   - ECHO - [**Last Name (un) 1830**] mild LVH, normal systolic function, 2+ mitral regurg
   - slight improvement in renal function suggests that there might be
   room for further diuresis
   - repeat CXR in AM
   .
   ##.  Atrial fibrillation - New onset, paroxysmal atrial fibrillation.
   Unclear etiology.  Likely [**12-24**] to hypoxia/volume overload/hypertension/
   worsening valvular dysfunction (dynamic mitral regurgitation).
   Unfortunately, mitral regurg has limited treatment outside of
   repair/replaceme.  Electrolytes have been within normal limits; could
   be triggered by worsening afterload/hypertension, worsening of CHF,
   hypoxia, worsening of valvular dysfunction (has history of MR, although
   most recent echo does not support this).
   - Rate control with labetalol 100 TID, titrating esmolol down as HR has
   normalized.
   - should start anticoagulation today (CHADS2 = 4)
   ##. CHF/mitral regurg:  on Labetolol, Amlodipine, clonidine. Improving
   end organ perfusion shows some improvement as evidenced by improvement
   in renal function.   She has history of MR, which is evident on exam
   and prior ECHO (although most recent ECHO does not support this), and
   may be a contributing factor to her worsening pulmonary edema.
   - Given that could be secondary to MROn amlodipine, hydral only being
   given if SBP > 180, also on labetalol.  Further diuresis with lasix +
   diuril.  Started Imdur 20mg [**Hospital1 **], reduced clonidine to 0.1mg/24h from
   0.2mg/24hr.
   - maintain strict I/O
s to ensure patient remains negative, daily
   weights and low Na diet
   - ask cards re: management
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - afterload reduction as documented above.
   ##. Acute on chronic renal failure:. Pt's prior baseline Creatinine
   noted to be 2.2-2.9 during last admission currently elevated.  Etiology
   could be secondary to ATN from prolonged renal ischemia.  Creatinine
   has improved overall from 4.7 to about 4.0 with continued diuresis.
   [**Month (only) 11**] be room for further improvement with continued diuresis.   MRA
   performed confirming no RAS.
   - FEurea ~ 30% (equivocal) and UNa 69 more suggestive of ATN picture.
   Need to optimize renal perfusion with afterload reduction as above and
   renally dose meds. Consider further diuresis for improvement of forward
   flow
   ## Anemia: HCTs are stable.
   - f/u retic count
   ##. Agitation:
   - Psych suggested using Haldol for agitation and avoiding benzos. Has
   wrist restraints.  Total of 1.5mg over 24 hrs.
   ##. Goals of care - Son does not want to pursue long term ventilation
   without foreseeable improvement.  Will reassess and speak with son on
   Thursday or [**Name (NI) 1583**].
   ##. FEN: No IVF, replete electrolytes, patient taking PO.
    ##. Prophylaxis: Subcutaneous heparin, PPI
   ##. Access: Aline, peripherals, scheduled for PICC placement today
   ##. Code: Full
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**]) - Health Care Proxy
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   20 Gauge - [**2126-8-21**] 08:17 AM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-23 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - goal regimine for BP control: hydralazine 25 PO TID, lobetalol 50 PO
   TID, titrate down esmolol drip and titrate up metoprolol 25 PO TID,
   isosorbide-ER 30 PO BID
   - met goal with diuresis -1,240 (@ 9 pm) without lasix bolus
   - patient continues to go into afib with RVR whenever esmolol drip
   titrated off, metoprolol increased to 75 PO TID
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Esmolol - 50 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2126-8-22**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2126-8-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-23**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 70 (67 - 132) bpm
   BP: 168/49(92) {143/42(80) - 175/61(102)} mmHg
   RR: 28 (18 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,101 mL
                                                                    236 mL
   PO:
                                                                    540 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    561 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    520 mL
   Urine:
                                                                  2,545 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,444 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.41/38/77/25/0
   PaO2 / FiO2: 154
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   375 K/uL
   7.9 g/dL
   106 mg/dL
   3.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   75 mg/dL
   96 mEq/L
   138 mEq/L
   24.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2126-8-21**]  11:37 PM
                             [**2126-8-22**]  01:14 AM
                             [**2126-8-22**]  01:33 AM
                             [**2126-8-22**]  04:57 AM
                             [**2126-8-22**]  06:29 AM
                             [**2126-8-22**]  06:51 AM
                             [**2126-8-22**]  02:28 PM
                             [**2126-8-22**]  10:15 PM
                             [**2126-8-23**]  12:20 AM
                             [**2126-8-23**]  01:45 AM
   WBC
   9.3
   6.5
   6.6
   Hct
   26.0
   25.7
   24.0
   24.4
   Plt
   382
   367
   375
   Cr
   3.9
   3.9
   3.9
   4.0
   3.9
   TCO2
   23
   23
   24
   25
   25
   Glucose
   127
   119
   111
   109
   106
   Other labs: PT / PTT / INR:16.9/52.1/1.5, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:180
   IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   This is a 77 yof with h/o resistant HTN, DM-II, right subclavian
   stenosis and CKD s/p recent hospitalization for HTN complicated by CVA
   p/w SOB in setting of fluid overload and worsening renal function
   ##. Hypoxic Respiratory failure:  Believed to be secondary to pulmonary
   edema [**12-24**] to chronic mitral regurg (perhaps with dynamic component)
   exacerbated by high afterload and worsening renal function.
   Unfortunately, mitral regurg has limited treatment outside of
   repair/replacement.   CXR from yesterday shows improving pulmonary
   edema. Net balance of -1.5 L over last 24 hrs without lasix bolus;
   overall -6.5 L.    Creatinine stable at 3.9.
   -To reduce afterload, continue hydralazine and labetalol.  Also on
   metoprolol and isosorbide.   Titrating down esmolol drip.
   -Goal is 500 ccs/daily
   -F/u CXR today
   -Need to optimize diuresis regimen; apparently has had multiple
   admissions with pulmonary edema, so unlikely fluid will stay off.  Need
   to determine optimum diuresis regimen prior to discharge.
   -F/u cards recs
   .
   ##.  Atrial fibrillation - New onset, paroxysmal atrial fibrillation.
   Unclear etiology.  Likely [**12-24**] to hypoxia/volume overload/hypertension/
   worsening valvular dysfunction (dynamic mitral regurgitation).
   Unfortunately, mitral regurg has limited treatment outside of
   repair/replacement.  Electrolytes have been within normal limits; could
   be triggered by worsening afterload/hypertension, worsening of CHF,
   hypoxia, worsening of valvular dysfunction.
   -Not tolerating coming off esmolol drip: goes back into afib.
   Currently on rate control with labetalol 50 TID,  metoprolol increased
   to 75mg tid, continue to titrate esmolol down as HR normalizes.
   -Given difficult to control, consider cardioversion, talk w/ cards,
   although getting outside of window of opportunity to cardiovert w/o
   anticoagulation
   -Holding off on anticoagulation for now, CHADS2 of 4.
   .
   ##. CHF/mitral regurg:  on Labetolol, Amlodipine, clonidine. Improving
   end organ perfusion shows some improvement as evidenced by improvement
   in renal function.   She has history of MR, which is evident on exam
   and prior ECHO (although most recent ECHO does not support this), and
   may be a contributing factor to her worsening pulmonary edema.
   - Continue labetolol,  started on Imdur 30 [**Hospital1 **] and metoprolol 75tid,
   - Clonidine reduced to 0.1mg/24h.
   - increased hydral as standing dose to maintain BP
   - when renal function improves, optimally start ACEI and d/c hydral.
   - maintain strict I/O
s to ensure patient remains negative, daily
   weights and low Na diet
    .
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - afterload reduction as documented above.
   .
   ##. Acute on chronic renal failure:. Pt's prior baseline Creatinine
   noted to be 2.2-2.9 during last admission currently elevated.  Etiology
   could be secondary to ATN from prolonged renal ischemia.  Creatinine
   has improved overall from 4.7 to about 4.0 with continued diuresis.
   [**Month (only) 11**] be room for further improvement with continued diuresis.   MRA
   performed confirming no RAS.
   - FEurea ~ 30% (equivocal) and UNa 69 more suggestive of ATN picture.
   Need to optimize renal perfusion with afterload reduction as above and
   renally dose meds. Consider further diuresis for improvement of forward
   flow
    .
   ## Anemia: HCTs are stable.
   .
   ##. Agitation:
   - Psych suggested using Haldol for agitation and avoiding benzos. Has
   wrist restraints.  Total of 1.5mg over 24 hrs.
   .
   ##. Goals of care - Son does not want to pursue long term ventilation
   without foreseeable improvement.  Will reassess and speak with son on
   Thursday or [**Name (NI) 1583**].
   .
   ##. FEN: No IVF, replete electrolytes, start PO diet as intubation less
   lilkey at this time. .
   .
    ##. Prophylaxis: Subcutaneous heparin, PPI
   .
   ##. Access: Aline, peripherals, scheduled for PICC placement today
   .
   ##. Code: Full
   .
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**]) - Health Care Proxy
   .
    ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   20 Gauge - [**2126-8-20**] 04:46 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-24 07:27:00 Physician Resident Progress Note
-started dulcolax for bowel regimen
   -nutrition consult: recommending Benepak supplements
   -lopressor uptitrated to 100 mg TID
   -stopped nebs
   -called cardiology consult w/ ? of whether or not to start amiodarone;
   they will see her in the afternoon; if guiaic negative will start IV
   heparin
   -per cards recs, would stop esmolol drip, give bolus of dilt, then
   start on dilt drip.  go up on labetalol to up to as much as 250 q6 hrs,
   then cut back on metoprolol as necessary.  work-up secondary causes of
   HTN (pheo, thyroid) + can push up hydralazine. can switch imdur to
   once-daily dosing 60 instead of 30 [**Hospital1 **].   if after all this still not
   rate controlled, can start amiodarone.  ?tapping effusion.
   -TSH low (sick euthyroid versus hyperthyroidism), checking free T4;
   urine metanephrines ordered.  free T4 came back normal.
   -what we finally decided to do:  we stopped the labetalol, stopped the
   esmolol, continued the metoprolol, started on amiodarone loaded
   tonight.
   -ativan for anxiety;
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 114 (68 - 134) bpm
   BP: 176/78(116) {134/54(87) - 177/128(136)} mmHg
   RR: 30 (18 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46.6 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,010 mL
                                                                    333 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    530 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    270 mL
   Urine:
                                                                  1,450 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -440 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   385 K/uL
   7.6 g/dL
   277 mg/dL
   3.9 mg/dL
   27 mEq/L
   3.0 mEq/L
   71 mg/dL
   96 mEq/L
   135 mEq/L
   23.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2126-8-22**]  01:14 AM
                             [**2126-8-22**]  01:33 AM
                             [**2126-8-22**]  04:57 AM
                             [**2126-8-22**]  06:29 AM
                             [**2126-8-22**]  06:51 AM
                             [**2126-8-22**]  02:28 PM
                             [**2126-8-22**]  10:15 PM
                             [**2126-8-23**]  12:20 AM
                             [**2126-8-23**]  01:45 AM
                             [**2126-8-24**]  03:55 AM
   WBC
   9.3
   6.5
   6.6
   6.1
   Hct
   26.0
   25.7
   24.0
   24.4
   23.3
   Plt
   382
   367
   375
   385
   Cr
   3.9
   3.9
   3.9
   4.0
   3.9
   3.9
   TCO2
   23
   24
   25
   25
   Glucose
   119
   111
   109
   106
   277
   Other labs: PT / PTT / INR:16.2/150.0/1.4, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:180
   IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   This is a 77 yof with h/o resistant HTN, DM-II, right subclavian
   stenosis and CKD s/p recent hospitalization for HTN complicated by CVA
   p/w SOB in setting of fluid overload and worsening renal function
   ##. Hypoxic Respiratory failure:  Believed to be secondary to pulmonary
   edema [**12-24**] to chronic mitral regurg (perhaps with dynamic component)
   exacerbated by high afterload and worsening renal function.
   Unfortunately, mitral regurg has limited treatment outside of
   repair/replacement.   CXR from yesterday shows improving pulmonary
   edema. Net balance of -0.5 L up until midnight without any lasix bolus;
   overall -7.5 L.    Creatinine stable at 3.9.
   -Currently strategy for managing pulmonary edema:
   (1) afterload reduction:  standing hydralazine, isosorbide and
   metoprolol.  Yesterday D/C
d labetalol, esmolol drip. Pressures this AM
   are 170/70; needs much improved systolic control.  Can push up
   hydralazine (currently on 25 q8) -> can go to 50 mg q8.  Reducing
   afterload is of critical importance to reducing her MR and improving
   her respiratory status, so we can be aggressive with this.  Could
   consider switching from metoprolol to labetalol, since labetalol will
   provide better BP control.   Further diuresis only important for
   afterload reduction rather than taking off fluid; is -0.5 L daily
   without any lasix, so would not aggressively diurese at this point.
   -Change to hydral 50 mg q8
   -Consider metoprolol -> labetalol for better BP control; increase to
   200 mg TID
   -wouldn
t aggressively diurese: goal set at -.5 L /day, follow Is and
   Os
   (2) controlling heart rates:  developed new onset afib three days ago.
   Currently HRs are in 110s
 120s but EKG obtained during tachycardia
   more suggestive of sinus tachycardia than atrial fibrillation.  Unclear
   what is causing her tachycardia:  unlikely to be intravascularly
   depleted because renal function is stable even with diuresis;  TSH is
   low but free T4 is normal, is not febrile; has history of anxiety,
   could consider better anxiety control.
   - Currently on metoprolol 100 mg, can consider switch to labetalol at
   higher dose (max dose of labetalol is 1600 mg/day!); continue
   amiodarone to maintain sinus.
   - IV heparin for anticoagulation given CHADS2 score of 5 (high risk for
   stroke)
   -F/u secondary causes of tachycardia:  free T4 normal, urine
   metanephrines pending, tx of anxiety
   .
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - afterload reduction as documented above.
   .
   ##. Acute on chronic renal failure:. Pt's prior baseline Creatinine
   noted to be 2.2-2.9 during last admission currently elevated.  Etiology
   could be secondary to ATN from prolonged renal ischemia.  Creatinine
   has improved overall from 4.7 to about 4.0 with continued diuresis.
   [**Month (only) 11**] be room for further improvement with continued diuresis.   MRA
   performed confirming no RAS.
   - FEurea ~ 30% (equivocal) and UNa 69 more suggestive of ATN picture.
   Need to optimize renal perfusion with afterload reduction as above and
   renally dose meds. Consider further diuresis for improvement of forward
   flow
    .
   ## Anemia: HCT fell slightly; check afternoon HCT, especially since
   started on heparin IV yesterday.
   .
   ##. Agitation:
   - Psych suggested using Haldol for agitation and avoiding benzos. Has
   wrist restraints.  Total of 1.5mg over 24 hrs.
   .
   ##. Goals of care - Son does not want to pursue long term ventilation
   without foreseeable improvement.  Will reassess and speak with son on
   Thursday or [**Name (NI) 1583**].
   .
   ##. FEN: Nutrition recommends adding Benepak supplements to food and
   increasing PO intake; replete electrolytes as PRN, not currently giving
   any fluids.
   .
    ##. Prophylaxis: On PPI, IV heparin.
   .
   ##. Access: Aline, peripherals, PICC.
   .
   ##. Code: Full
   .
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**]) - Health Care Proxy
   .
    ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   20 Gauge - [**2126-8-20**] 04:46 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-24 10:19:00 Physician Attending Progress Note
Chief Complaint: CHF, Afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 y.o womaa with diastolic dysfunction, CHF, Afib, acute on chronic
   renal failure, tenuous respiratory status
   24 Hour Events:
 EKG - At [**2126-8-23**] 10:06 PM
 EKG - At [**2126-8-24**] 12:11 AM
   Loaded with amiodarone overnight
   Increased bowel regimen
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   zoloft
   ASA
   Ca CO
   Vit D
   Colace
   MVI
   Iron
   RISS
   Clonidine patch
   Isordil
   Hydralazine
   Lopressor
   Zofran
   Tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-24**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 119 (114 - 134) bpm
   BP: 141/63(91) {134/58(87) - 179/128(136)} mmHg
   RR: 29 (18 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46.6 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,010 mL
                                                                    401 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    530 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    375 mL
   Urine:
                                                                  1,450 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -440 mL
                                                                     26 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   385 K/uL
   277 mg/dL
   3.9 mg/dL
   27 mEq/L
   3.0 mEq/L
   71 mg/dL
   96 mEq/L
   135 mEq/L
   23.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2126-8-22**]  01:14 AM
                             [**2126-8-22**]  01:33 AM
                             [**2126-8-22**]  04:57 AM
                             [**2126-8-22**]  06:29 AM
                             [**2126-8-22**]  06:51 AM
                             [**2126-8-22**]  02:28 PM
                             [**2126-8-22**]  10:15 PM
                             [**2126-8-23**]  12:20 AM
                             [**2126-8-23**]  01:45 AM
                             [**2126-8-24**]  03:55 AM
   WBC
   9.3
   6.5
   6.6
   6.1
   Hct
   26.0
   25.7
   24.0
   24.4
   23.3
   Plt
   382
   367
   375
   385
   Cr
   3.9
   3.9
   3.9
   4.0
   3.9
   3.9
   TCO2
   23
   24
   25
   25
   Glucose
   119
   111
   109
   106
   277
   Other labs: PT / PTT / INR:16.2/150.0/1.4, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:180
   IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Imaging:
   CXR:  Increased haziness bilaterally, probable layering of persistent
   pleural effusions.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB):  Now looks like sinus tachycardia on the
   monitor.  Repeat 12 lead ECG.  On lopressor and amiodarone.  On IV
   heparin, PTT 150, held and decreased dose.  Repeat PTT at noon.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Pulmonary edema in
   setting of significant MR, diastolic dysfunction and suboptimal
   afterload reduction.  Appears comforable sitting up at ~45 degrees in
   bed.  Continues on hydralazine and isordil.  Try to increase
   hydralazine.  Hold on diruesis as we adjust her meds.  Continues to
   have tenuous respiratory status.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Continue patch.  No
   complaint of pain except at IV site when potassium given.
 H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE:
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Now on standing haldol dose
   per psychiatry service.
 PULMONARY EDEMA:  As above.
 ACUTE ON CHRONIC RENAL FAILURE:  Cr staying around 4.0. Repeat urine
   lytes.  Continue to monitor as we increase her afterload reduction as
   above.
 ANEMA:  Hct slightly decreased, will check pm hct given she has been
   started on heparin. Guaiac all stools.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   20 Gauge - [**2126-8-20**] 04:46 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2126-08-25 06:30:00 Physician Resident Progress Note
Chief Complaint: This is a 77 yof with h/o resistant HTN, DM-II, right
   subclavian stenosis and CKD s/p recent hospitalization for HTN
   complicated by CVA p/w SOB in setting of fluid overload and worsening
   renal function
   24 Hour Events:
   -transfused one unit for Hct 23.3 --> increased to 30.6
   their recs.
   - BP high.  Increased hydral to 75 tid, with plan to increase to 75 qid
   tomorrow.  Lopressor was held given improvement in HR 55-low 60s.
   Several doses of IV  hydral were given periodically over the course of
   the night.  She was given Ativan 0.5 mg with good effect.  She also
   received 1 inch nitro paste.
   - Pt was desating to high 80s, on FI02 80% plus NC at 6L.  She was
   started on high flow mask.
   - given IVF X 250cc for low UOP.  Urine lytes consistent with
   dehydration.  IVF were stopped after 60cc given desats.
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Heparin Sodium - [**2126-8-24**] 09:50 PM
   Haloperidol (Haldol) - [**2126-8-24**] 10:25 PM
   Hydralazine - [**2126-8-25**] 04:06 AM
   Lorazepam (Ativan) - [**2126-8-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-25**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 61 (55 - 119) bpm
   BP: 177/67(109) {141/45(84) - 201/93(129)} mmHg
   RR: 29 (21 - 37) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,199 mL
                                                                    183 mL
   PO:
             TF:
   IVF:
                                                                    824 mL
                                                                    183 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    735 mL
                                                                    145 mL
   Urine:
                                                                    735 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    464 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.40/39/70/24/0
   PaO2 / FiO2: 88
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   477 K/uL
   10.1 g/dL
   147 mg/dL
   3.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   74 mg/dL
   96 mEq/L
   133 mEq/L
   30.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2126-8-22**]  06:51 AM
                             [**2126-8-22**]  02:28 PM
                             [**2126-8-22**]  10:15 PM
                             [**2126-8-23**]  12:20 AM
                             [**2126-8-23**]  01:45 AM
                             [**2126-8-24**]  03:55 AM
                             [**2126-8-24**]  12:19 PM
                             [**2126-8-24**]  08:06 PM
                             [**2126-8-24**]  08:30 PM
                             [**2126-8-25**]  04:18 AM
   WBC
   6.5
   6.6
   6.1
   10.3
   Hct
   25.7
   24.0
   24.4
   23.3
   30.6
   30.9
   Plt
   367
   375
   385
   477
   Cr
   3.9
   4.0
   3.9
   3.9
   3.8
   3.8
   TCO2
   25
   25
   28
   25
   Glucose
   111
   109
   106
   277
   151
   147
   Other labs: PT / PTT / INR:13.5/104.9/1.2, Ca++:9.6 mg/dL, Mg++:2.0
   mg/dL, PO4:4.5 mg/dL
   Microbiology: none
   Assessment and Plan
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EDEMA
   This is a 77 yof with h/o resistant HTN, DM-II, right subclavian
   stenosis and CKD s/p recent hospitalization for HTN complicated by CVA
   p/w SOB in setting of fluid overload and worsening renal function
   ##. Hypoxic Respiratory failure:  Believed to be secondary to pulmonary
   edema [**12-24**] to chronic mitral regurg (perhaps with dynamic component)
   exacerbated by high afterload and worsening renal function.
   Unfortunately, mitral regurg has limited treatment outside of
   repair/replacement.   CXR from yesterday shows improving pulmonary
   edema. Net balance of -0.5 L up until midnight without any lasix bolus;
   overall -7.5 L.    Creatinine stable at 3.9.
   -Currently strategy for managing pulmonary edema:
   (1) afterload reduction:  standing hydralazine, isosorbide and
   metoprolol.  Metoprolol currently being held due to bradycardia
   (55-63).   Pressures this AM are 170/70; needs much improved systolic
   control.  On hydral 75mg qid, can increase isosorbide dinitrate.
   Reducing afterload is of critical importance to reducing her MR and
   improving her respiratory status, so we can be aggressive with this.
   Further diuresis only important for afterload reduction rather than
   taking off fluid; is -0.5 L daily without any lasix, so would not
   aggressively diurese at this point.
   -Change to hydral 75 qid
   -Consider metoprolol -> labetalol for better BP control; increase to
   200 mg TID
   -wouldn
t aggressively diurese: goal set at -.5 L /day, follow Is and
   Os
   - anxiety is a large component of hypertension, ativan prn has improved
   htn
   (2) controlling heart rates:  developed new onset afib three days ago.
   Currently HRs are in 110s
 120s but EKG obtained during tachycardia
   more suggestive of sinus tachycardia than atrial fibrillation.  Unclear
   what is causing her tachycardia:  unlikely to be intravascularly
   depleted because renal function is stable even with diuresis;  TSH is
   low but free T4 is normal, is not febrile; has history of anxiety,
   could consider better anxiety control.
   -  continue amiodarone to maintain sinus.   600mg daily X 1 week,
   followed by 400mg daily, titrate to lowest effective maintenance dose
   - BB/CCB options to improve rate control, but already doing well.
   - IV heparin for anticoagulation given CHADS2 score of 5 (high risk for
   stroke)
   -F/u secondary causes of tachycardia:  free T4 normal, urine
   metanephrines pending, tx of anxiety
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 180
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - afterload reduction as documented above.
   ##. Acute on chronic renal failure:. Pt's prior baseline Creatinine
   noted to be 2.2-2.9 during last admission currently elevated.  Etiology
   could be secondary to ATN from prolonged renal ischemia.  Creatinine
   has improved overall from 4.7 to about 3.8 with continued diuresis.
   [**Month (only) 11**] be room for further improvement with continued diuresis.   MRA
   performed confirming no RAS.
   - FEurea ~ 30% (equivocal) and UNa 69 more suggestive of ATN picture.
   Need to optimize renal perfusion with afterload reduction as above and
   renally dose meds.
   ## Anemia: HCT fell slightly; s/p one unit yesterday.  Likey cause is
   phelobotomization.  Guaic negative
   ##. Agitation:
   - Psych suggested using Haldol for agitation .
   - using ativan when agitated and actuely hypertensive as it has shown
   better effect.
   ##. Goals of care - Pt and son do not want to pursue long term
   ventilation without foreseeable improvement.  .
   ##. FEN: Nutrition recommends adding Benepak supplements to food and
   increasing PO intake; replete electrolytes as PRN, not currently giving
   any fluids.
    ##. Prophylaxis: On PPI, IV heparin.
   ##. Access: Aline, peripherals, PICC.
   ##. Code: Full
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**]) - Health Care Proxy
   .
    ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-25 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Heparin Sodium - [**2126-8-24**] 09:50 PM
   Haloperidol (Haldol) - [**2126-8-24**] 10:25 PM
   Hydralazine - [**2126-8-25**] 04:06 AM
   Lorazepam (Ativan) - [**2126-8-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-25**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 61 (55 - 119) bpm
   BP: 177/67(109) {141/45(84) - 201/93(129)} mmHg
   RR: 29 (21 - 37) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,199 mL
                                                                    187 mL
   PO:
             TF:
   IVF:
                                                                    824 mL
                                                                    187 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    735 mL
                                                                    145 mL
   Urine:
                                                                    735 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    464 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.40/39/70/24/0
   PaO2 / FiO2: 88
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   477 K/uL
   10.1 g/dL
   147 mg/dL
   3.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   74 mg/dL
   96 mEq/L
   133 mEq/L
   30.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2126-8-22**]  06:51 AM
                             [**2126-8-22**]  02:28 PM
                             [**2126-8-22**]  10:15 PM
                             [**2126-8-23**]  12:20 AM
                             [**2126-8-23**]  01:45 AM
                             [**2126-8-24**]  03:55 AM
                             [**2126-8-24**]  12:19 PM
                             [**2126-8-24**]  08:06 PM
                             [**2126-8-24**]  08:30 PM
                             [**2126-8-25**]  04:18 AM
   WBC
   6.5
   6.6
   6.1
   10.3
   Hct
   25.7
   24.0
   24.4
   23.3
   30.6
   30.9
   Plt
   367
   375
   385
   477
   Cr
   3.9
   4.0
   3.9
   3.9
   3.8
   3.8
   TCO2
   25
   25
   28
   25
   Glucose
   111
   109
   106
   277
   151
   147
   Other labs: PT / PTT / INR:13.5/104.9/1.2, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:180
   IU/L, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Imaging: CT Abd/Pelvis pending
   CXR - bilateral pulmonary edema, no consolidation, enlarged cardiac
   silouette, sharp costophrenic angles
   Microbiology: blood cultures pending
   Assessment and Plan
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EDEMA
   Assessment/Plan:
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2123**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2126-8-24**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   .
   (#) Hypoxia: improving; patient already down to 6LNC in the ICU.
   Evidence of volume overload on CXR.  Patient also had emesis and,
   though he is not at especially high risk, may have had an aspiration
   event.  He has not gotten an extra large amount of volume aside from
   the 4 units total of FFP.  He has now received lasix 20, then 40 mg IV
   though is urine output is only 20 cc over the last three to four
   hours.  (Of note, he did have 300 cc urine recorded in flow sheet at 11
   pm last night.)  Despite to putting out urine, the patient does report
   feeling better.  Low suspicion for PE or other pathology.
   -- cont to wean oxygen and diurese as tolerated
   -- aspiration precautions if he continues to vomit
   -- antiemetics PRN
   .
   (#) POSSIBLE UGIB: Pt had episode of guaiaic positive emesis in context
   of severe cough and post-tussive emesis.  Has been nauseaus since
   admission likely from RP bleed.  Pt has no h/o ETOH abuse, liver
   disease which would be concerning for ascities.  no known ulcer
   disease; denies upper bleed such as epistaxis and dental bleeding.
   - NPO; IV PPI [**Hospital1 **]
   - maintain active T&S
   - Maintain Hct > 25 given large degree of drop from baseline (though
   possibly hemoconcentrated on admission)
   - possible GI c/s re: UGI
   .
   (#) Retroperitoneal bleed: Differential diagnosis broad at this point.
   No recent trauma. Causes of RP bleed could include: renal maignancy,
   pyelonephritis +/- abscess, vascular disease, rupture of renal cyst.
   Subcapsular and intraparenchymal bleed makes intrinsic kidney etiology
   most likely. Exophytic lesion on upper pole noted on CT (12->22mm since
   [**2123**]) but unrelated to current bleed. Bleed most likely exacerbated by
   warfarin (although not supratherapeutic INR ~2.5) and daily baby
   aspirin (functional platelet abnormalities).  Urology is following.
   Decreased urine output is concerning for progression of bleed affecting
   renal perfusion, and Cr has bumped from 2.3 --> 4.5 overnight.
   -- will call urology this am to touch base about the decreased urine
   output
   -- will give another 2 units FFP given possible progression of bleed
   -- cont holding warfarin, aspirin
   -- would lke to give RBC transfusion, but will hold given volume
   .
   (#) ACUTE ON CHRONIC RENAL FAILURE: unclear what his baseline is (seems
   to be in mid 2's); acute change with minimal UOP in last few hours is
   concerning for progression of the hematoma compromising blood flow to
   the kidney or IVC; also has a mildly elevated lactate.
   -- will repeat pelvis CT scan
   -Continue calcitriol 0.25 mcg PO DAILY
   -- renal diet when restarted
   .
   (#) POSSIBLE AMI: ST changes on EKG ordered for eval of nausea (not CP,
   albeit pt is diabetic) were considered "artifact" by cards fellow and
   normalized on repeat EKG.
   -- CE ordered with am labs though low suspicion will be positive
   -- cont statin; hold ASA given bleed
   .
   (#) Fever/Leukocytosis -  WBC currently 13.6 with left shift. Infection
   is highest on differential, although stress reaction to acute bleed,
   inflammatory, and neoplastic disease are also possible. No evidence fo
   PNA currently (though may have had an aspirtaion event last night).
   -- continue to monitor
   -- Check urine culture, blood culture
   .
   # CHF (h/o systolic dysfunction, though normalized on [**2123**] echo): Pt
   reports history of mild edema and recent weight gain. Known systolic
   dysfunction although LVEF in [**2123**] >55%.
   -Strict I's and O's
   -monitor respiratory status, vital signs
   -- might consider repeat echo
   .
   #Atrial fibrillation: Hx of inducible VT, s/p upgrade to a BiV ICD [**2121**]
   (defibrillated 1x).
   -holding coumadin
   -continue telemetry
   .
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 319**]
   [**2125**].
   -HISS
   - [**First Name8 (NamePattern2) 851**] [**Location (un) 684**] of [**Last Name (un) 294**] folows his DM, as pt is on a study drug for
   kidney disease
   .
   #HTN: Currently stable though on low side with possible IVC compression
   from hematoma.  Will be cautious with antihypertensives in setting of
   bleed.
   - furosemide according to BP parameters
   -hold metoprolol and valsartan, reasses if needed
   .
   #Hypothyroidism: Stable, continue levothyroxine sodium 125 mcg
   .
   #Gout: continue allopurinol
   .
   # FEN: No IVF, replete electrolytes, NPO for possible UGIB
   .
   # Prophylaxis: Pneumoboots, ambulation
   .
   # Access: peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient, patient's wife [**Name (NI) 288**] [**Name (NI) 8550**] [**Telephone/Fax (1) 8551**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-25 11:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight more anxious, more hypertensive not responsive to increasing
   hydralazine dosing.  Improved with ativan.
   In the context of agitation and hypertension had increasing Fi02
   requirements.
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Heparin Sodium - [**2126-8-24**] 09:50 PM
   Haloperidol (Haldol) - [**2126-8-24**] 10:25 PM
   Hydralazine - [**2126-8-25**] 04:06 AM
   Lorazepam (Ativan) - [**2126-8-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-25**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.2
C (95.4
   HR: 56 (54 - 115) bpm
   BP: 177/53(95) {156/45(84) - 201/93(129)} mmHg
   RR: 21 (21 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,199 mL
                                                                    299 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                    824 mL
                                                                    239 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    735 mL
                                                                    270 mL
   Urine:
                                                                    735 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    464 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: 7.40/39/70/24/0
   PaO2 / FiO2: 88
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependent)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   477 K/uL
   147 mg/dL
   3.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   74 mg/dL
   96 mEq/L
   133 mEq/L
   30.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2126-8-22**]  06:51 AM
                             [**2126-8-22**]  02:28 PM
                             [**2126-8-22**]  10:15 PM
                             [**2126-8-23**]  12:20 AM
                             [**2126-8-23**]  01:45 AM
                             [**2126-8-24**]  03:55 AM
                             [**2126-8-24**]  12:19 PM
                             [**2126-8-24**]  08:06 PM
                             [**2126-8-24**]  08:30 PM
                             [**2126-8-25**]  04:18 AM
   WBC
   6.5
   6.6
   6.1
   10.3
   Hct
   25.7
   24.0
   24.4
   23.3
   30.6
   30.9
   Plt
   367
   375
   385
   477
   Cr
   3.9
   4.0
   3.9
   3.9
   3.8
   3.8
   TCO2
   25
   25
   28
   25
   Glucose
   111
   109
   106
   277
   151
   147
   Other labs: PT / PTT / INR:13.5/104.9/1.2, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:180
   IU/L, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 ANXIETY:  Still think this is a sigificant component of anxiety,
   possible sundowning contributing to decompensations at night.  Consider
   Geriatrics consult to help guide us on this.
 OLIGURIA/ANURIA:  Gently IVF hydration overnight.  Given urine
   electrolytes with Na < 10, this is likely prerenal.  Gentle hydration
   as she still has poor po intake.
 ATRIAL FIBRILLATION (AFIB):  Now looks like sinus bradycardia.
   Discontinue amiodarone as per cardiology.   Hold on starting diltiazem
   for now. On IV heparin, PTT 104, held and decreased dose.  Repeat PTT
   this afternoon.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Pulmonary edema in
   setting of significant MR, diastolic dysfunction and suboptimal
   afterload reduction.  Appears comforable sitting up at ~45 degrees in
   bed.  Continues on hydralazine and isordil.  Try to increase
   hydralazine.  Hold on diruesis as we adjust her meds.  Continues to
   have tenuous respiratory status.

 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Continue patch.  No
   complaint of pain.
 H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE:
 PULMONARY EDEMA: Increased Fi02 requirements in setting of anxiety,
   hypertension.  Likely related to exacerbation of her underlying
   diastolic dysfunction.  CXR not significantly changed.  Had increased
   hydralazine dosing yesterday, continue 75 QID.  Will continue to
   monitor in ICU given labile blood pressures and escalating Fi02
   requirements.

 ALTERED MENTAL STATUS (NOT DELIRIUM):  Now on standing haldol dose
   per psychiatry service.
 ACUTE ON CHRONIC RENAL FAILURE:  Cr stable 3.8. Repeat urine lytes.
   Continue to monitor as we increase her afterload reduction as above.

 ANEMA:  More than adequate bump to transfusion 1 u pRBCs yesterday.
   Spuriously low.  Guaiac all stools on heparin.  Check daily hct.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2126-08-26 07:30:00 Physician Resident Progress Note
Chief Complaint: 77 yof with h/o resistant HTN, DM-II right subclavian
   stenosis admited with dyspnea, fluid overload and poorly controlled
   HTN.  Patient continues to have substantial respiratory distress
   associated with anxiety and elevated BP.  Patient was placed back on
   BiPAP overnight for persistent hypoxia and now with worsening CXR and
   decreasing UOP.
   24 Hour Events:
   - renal recs: consider inc. clonidine
   - geriatrics recs: hydralazine and clonidine may contribute to delerium
   and should be DC'd unless medically indicated, DC haldol and start
   seroquel 25 [**Last Name (LF) **], [**First Name3 (LF) **] used daytime dose of 12.5 if needed, follow QTc,
   continue home dose ativan, consider switching Zoloft to Remeron 15 [**First Name3 (LF) **]
   - patient awoke at 1900, agitated and SBP in 240's, given low dose
   diltiazem and seroquel
   - patient placed on BiPAP for sustained desaturations to low 80's on
   100% non-rebreather
   - worsening white-out of right lung concerning for partial collapse
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Nitroglycerin - 0.8 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2126-8-25**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-26**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 50 (48 - 63) bpm
   BP: 168/46(85) {123/29(56) - 235/81(135)} mmHg
   RR: 24 (15 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 46.6 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,195 mL
                                                                    217 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    955 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    608 mL
                                                                    325 mL
   Urine:
                                                                    608 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    587 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 428 (428 - 428) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 94%
   ABG: 7.38/42/67/24/0
   Ve: 5.8 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   422 K/uL
   8.8 g/dL
   104 mg/dL
   4.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   78 mg/dL
   97 mEq/L
   134 mEq/L
   26.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2126-8-23**]  01:45 AM
                             [**2126-8-24**]  03:55 AM
                             [**2126-8-24**]  12:19 PM
                             [**2126-8-24**]  08:06 PM
                             [**2126-8-24**]  08:30 PM
                             [**2126-8-25**]  04:18 AM
                             [**2126-8-25**]  08:01 PM
                             [**2126-8-25**]  08:16 PM
                             [**2126-8-26**]  04:26 AM
                             [**2126-8-26**]  04:44 AM
   WBC
   6.6
   6.1
   10.3
   9.1
   Hct
   24.4
   23.3
   30.6
   30.9
   26.5
   Plt
   375
   385
   477
   422
   Cr
   3.9
   3.9
   3.8
   3.8
   3.8
   4.0
   TCO2
   28
   25
   23
   26
   Glucose
   106
   277
   151
   147
   184
   104
   Other labs: PT / PTT / INR:13.1/74.3/1.1, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:180
   IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Microbiology
   - all cultures to date negative
   Imaging
   - CXR [**8-25**]
 interval worsening of RLL and RML opacity c/w increase
   pleural effusion and atelectasis with also notable reduced aeration of
   RUL - appearance of right-shift mediastinum concerning for partial
   collapse of RL.  Slightly improved left middle lung aeration
   Assessment and Plan
   77 yof with continued resistant HTN in setting of pulmonary edema,
   fluid overload poor renal function and delirium.
   ##. Hypoxic Respiratory failure:  due to pulmonary edema [**12-24**] to MR
   exacerbated by elevated [**Doctor Last Name **] and worsening renal function.  Patient
   continues to experience dyspnea in the setting of agitation AND labile
   hypertension.  Cr stable to 4.0 and patient appears clinically dry.
   - continue current anti-HTn regimine
 this is systolic HTN and patient
   is maximally afterload reduced as evidenced by low diastolic BP and it
   is unlikely we can improve on this
   - continue BiPAP
   - continue metoprolol 100 TID, ISMN 30 [**Hospital1 **], Clonodine patch,
   Hydralazine 25 QID
   - hold on lasix as patient is negative for LOS and clinically dry
   ## Atrial Fibrillation with RVR:  likely resulted from MR and element
   of decompensated HF. Amiodarone was initially started but then
   discontinued for concern of QTc prolongation in a/w anti-psychotics.
   Note that NSR may revert back to AF with RVR once Amiodarone washes
   out.
   - continue metoprolol 100 TID for rate control, if this is not
   sufficient consider adding additional nodal [**Doctor Last Name 23**] like CCB or Digoxin
   - clarify goals of care with son concerning anticoagulation - consider
   DC heparin drip as patient is now in sinus
 patient was in
   intermittent AF with RVR x 4 days which is minimal RF for clot
   formation
   - f/u urine metanephrines to r/o pheo
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 240
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - afterload reduction as documented above.
   ##. Acute on chronic renal failure: patient continues have stable Cr
   with now decr. UOP.  Patient  appears clinically dry.
   - avoid continued diuresis
   ##. Agitation:  continue Seroquel 25 [**Doctor Last Name **] with 12.5 q 6 PRN for
   agitation.  Consider switching to Remeron in setting of poor PO intake
   and continued agitation.  DC HALDOL.  And NO PRN ATIVAN.
   - continue to follow geriatrics recommendations concerning management
   of delirium
 attempting to normalize sleep wake cycle
   - recommendations are very much valued and appreciated
   ##. Goals of care - pt and son do not want to pursue long term
   ventilation without foreseeable improvement.  .
   ##. FEN: continue to check lytes and replete PRN
    ##. Prophylaxis: On PPI, IV heparin.
   ##. Access: aline, peripherals, PICC.
   ##. Code: Full
   ##. Communication: son  [**Name (NI) 738**] [**Name (NI) 739**] ([**Telephone/Fax (1) 8441**]) - Health Care Proxy
   ## Dispo
 patient will likely require direct transition to MACU once
   stable, ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-27 06:09:00 Physician Resident Progress Note
Chief Complaint:  77 yof with h/o resistant HTN, DM-II right subclavian
   stenosis admited with dyspnea, fluid overload and poorly controlled
   systolic HTN.  She is maximally afterload reduced, fluid negative but
   continues to have issues with pulmonary edema and respiratory support.
   24 Hour Events:
   Geriatrics:  give 25 mg PO seroquel at 1900, give 12.5 mg PO if still
   not sleeping prior to midnight.
   Renal: patient is not an HD candidate, they agree to participate in
   family meeting to discuss goals of care and the refractory nature of
   the pulmonary edema.
   Hydralazine increased to 50 mg q6 hours with 20 mg PRN
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1 mcg/Kg/min
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2126-8-26**] 08:30 AM
   Hydralazine - [**2126-8-26**] 05:45 PM
   Morphine Sulfate - [**2126-8-26**] 06:30 PM
   Furosemide (Lasix) - [**2126-8-26**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-27**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 62 (50 - 62) bpm
   BP: 215/64(116) {151/36(69) - 215/65(116)} mmHg
   RR: 38 (21 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                    976 mL
                                                                    283 mL
   PO:
                                                                    420 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    556 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  1,314 mL
                                                                    660 mL
   Urine:
                                                                  1,314 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -338 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 522) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: ///25/
   Ve: 7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   436 K/uL
   9.1 g/dL
   218 mg/dL
   3.8 mg/dL
   25 mEq/L
   2.8 mEq/L
   70 mg/dL
   94 mEq/L
   132 mEq/L
   27.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2126-8-24**]  12:19 PM
                             [**2126-8-24**]  08:06 PM
                             [**2126-8-24**]  08:30 PM
                             [**2126-8-25**]  04:18 AM
                             [**2126-8-25**]  08:01 PM
                             [**2126-8-25**]  08:16 PM
                             [**2126-8-26**]  04:26 AM
                             [**2126-8-26**]  04:44 AM
                             [**2126-8-26**]  02:23 PM
                             [**2126-8-27**]  02:55 AM
   WBC
   10.3
   9.1
   10.9
   Hct
   30.6
   30.9
   26.5
   27.4
   Plt
   477
   422
   436
   Cr
   3.8
   3.8
   3.8
   4.0
   3.9
   3.8
   TCO2
   28
   25
   23
   26
   Glucose
   151
   147
   184
   104
   117
   218
   Other labs: PT / PTT / INR:13.1/66.2/1.1, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:180
   IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Metanephrines - pending
   Microbiology
   - none
   Imaging
   - CXR [**8-26**]
 improved bilateral ventilation, decreased right pleural
   effusion, decreased heart size
   Assessment and Plan
   77 yof with continued resistant HTN in setting of pulmonary edema, poor
   renal function and delirium.
   ##. Hypoxic Respiratory failure:  due to pulmonary edema [**12-24**] to MR
   exacerbated by resistant systolic HTN and worsening renal function.
   Patient continues to experience dyspnea in the setting of agitation AND
   labile hypertension.  Cr stable, now to 3.8.  Patient has resistant
   systolic HTN and patient is maximally [**Doctor Last Name **] reduced as evidenced by low
   diastolic BP and we are unlikely to improve on this.
   - continue current HTN regimine with PRN hydralazine for BP > 200
   - continue BiPAP for adequate oxygenation and comfort
   - defer additional diuresis as pulmonary edema  likely results from her
   physiology and not fluid status, she remains
 7 L for LOS and
   clinically dry with continued pulmonary edema and non-invassive
   requirements
   ## Atrial Fibrillation with RVR:  likely resulted from MR and element
   of decompensated HF. Amiodarone was initially started but then
   discontinued for concern of QTc prolongation in a/w anti-psychotics.
   Note that NSR may revert back to AF with RVR once Amiodarone washes
   out.  Patient is currently in NSR.
   - continue metoprolol 100 TID for rate control, if this is not
   sufficient consider adding additional nodal [**Doctor Last Name 23**] like CCB or Digoxin
   - clarify goals of care with son
 issue of anticoagulation needs to be
   address
   ##. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 240
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - continue anti-HTN regimine as discussed above
   - - f/u metanephrines for consideration of pheo
 this seems unlikely
   given normal HR and lack of additional stigmata a/w catecholamine
   excess
   ##. Acute on chronic renal failure: patient continues have improving Cr
   with sufficient UOP.  Patient  appears clinically  dry and patient is
   7L for [**Location 4982**] goal I & O
s are even today
   ##. Agitation:  patient continues to suffer from delirium with abnormal
   sleep wake cycles which exacerbates the underlying hypertension.
   - continue Seroquel 25 mg PO at 7 PM with additional 12.5 mg if not
   asleep by 12 AM in attempt to regulate sleep wake cycle
   - continue to follow Geriatrics recs
   ##. Goals of care
 hopeful family meeting today to discuss GOC with
   son, patient may not fully understand the implications of DNR/DNI.
   Renal is aware and is available to attend.
   ##. FEN: PRN repletion
   ##. Prophylaxis: PPI, IV heparin (for atrial fibrillation)
   ##. Access: a-line, PICC
   ##. Code: Full vs. DNR/DNI
 unclear of status at this point
   ##. Communication:  [**First Name8 (NamePattern2) 738**] [**Known lastname 739**] ([**Telephone/Fax (1) 8441**]) - Health Care Proxy
   ## Dispo
  pending meeting regarding GOC today, will require transfer
   to MACU once stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-28 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Palliative care: increase Dilaudid to 0.5 q 2 to reduce air hunger,
   patient to be sent home on BIPAP and Dilaudid PCA  - home hospice
   arrangements
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2126-8-27**] 08:17 AM
   Morphine Sulfate - [**2126-8-27**] 10:00 AM
   Hydromorphone (Dilaudid) - [**2126-8-27**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-28**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 56 (51 - 61) bpm
   BP: 197/52(98) {182/46(86) - 230/76(129)} mmHg
   RR: 18 (18 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 51.2 kg (admission): 52.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,061 mL
                                                                     72 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    581 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    370 mL
   Urine:
                                                                  2,480 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,419 mL
                                                                   -298 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 312 (312 - 430) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 11 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   436 K/uL
   9.1 g/dL
   218 mg/dL
   3.8 mg/dL
   25 mEq/L
   2.8 mEq/L
   70 mg/dL
   94 mEq/L
   132 mEq/L
   27.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2126-8-24**]  12:19 PM
                             [**2126-8-24**]  08:06 PM
                             [**2126-8-24**]  08:30 PM
                             [**2126-8-25**]  04:18 AM
                             [**2126-8-25**]  08:01 PM
                             [**2126-8-25**]  08:16 PM
                             [**2126-8-26**]  04:26 AM
                             [**2126-8-26**]  04:44 AM
                             [**2126-8-26**]  02:23 PM
                             [**2126-8-27**]  02:55 AM
   WBC
   10.3
   9.1
   10.9
   Hct
   30.6
   30.9
   26.5
   27.4
   Plt
   477
   422
   436
   Cr
   3.8
   3.8
   3.8
   4.0
   3.9
   3.8
   TCO2
   28
   25
   23
   26
   Glucose
   151
   147
   184
   104
   117
   218
   Other labs: PT / PTT / INR:13.1/34.9/1.1, CK / CKMB /
   Troponin-T:34//0.07, Alk Phos / T Bili:/1.2, Differential-Neuts:88.2 %,
   Lymph:8.0 %, Mono:2.6 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:180
   IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   - Microbiology: none
   - Imaging: none
   Assessment and Plan
   77 yof with continued resistant HTN in setting of pulmonary edema, poor
   renal function and delirium.
   # Disposition:  patient is now DNR/DNI and palliative care is making
   arrangements for home BIPAP with dilaudid PCA to help with air hunger
   with home hospice arrangements.
   #. Hypoxic Respiratory failure due to pulmonary edema [**12-24**] to MR
   exacerbated by resistant systolic HTN and worsening renal function.
   Patient continues to experience dyspnea in the setting of agitation AND
   labile hypertension.  Patient has resistant systolic HTN and patient is
   maximally [**Doctor Last Name **] reduced as evidenced by low diastolic BP and we are
   unlikely to improve on this.
   - continue current HTN regimine with PRN hydralazine for BP > 200
   - continue BiPAP for adequate oxygenation and comfort
   - defer additional diuresis as pulmonary edema  likely results from her
   physiology and not fluid status
   # Atrial Fibrillation with RVR:  likely resulted from MR and element of
   decompensated HF. Amiodarone was initially started but then
   discontinued for concern of QTc prolongation in a/w anti-psychotics.
   Note that NSR may revert back to AF with RVR once Amiodarone washes
   out.  Patient is currently in NSR.
   - continue metoprolol 100 TID for rate control
   - defer anticoagulation as not c/w long term GOC
   #. HTN: patient with h/o resistant hypertension with very labile
   pressures ranging from 120
 240
s systolic often exacerbated by
   agitation and delerium; improved with sedation
   - continue anti-HTN regimine as discussed above
   - f/u metanephrines for consideration of pheo
 this seems unlikely
   given normal HR and lack of additional stigmata a/w catecholamine
   excess
   #. Acute on chronic renal failure: patient continues have improving Cr
   with sufficient UOP.  Patient  appears clinically  dry and patient is
   7L for [**Location 4982**] defer additional diuresis
   #. Agitation:  patient continues to suffer from delirium with abnormal
   sleep wake cycles which exacerbates the underlying hypertension.
   - continue Seroquel 25 mg PO at 7 PM with additional 12.5 mg if not
   asleep by 12 AM in attempt to regulate sleep wake cycle
   - continue to follow Geriatrics recs
   - update Geriatrics on GOC
   #. Prophylaxis: PPI, needs bowel regimine
   #. Access: a-line, PICC
   #. Code: DNR/DNI
   #. Communication:  [**First Name8 (NamePattern2) 738**] [**Known lastname 739**] ([**Telephone/Fax (1) 8441**]) - Health Care Proxy
   # Dispo: hope hospice
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-8-16**] 06:06 PM
   PICC Line - [**2126-8-21**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: